US07507740B2
(iii) Production of 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]butan-1-ol
To a solution of 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]butyl acetate (281 mg) in tetrahydrofuran (4.0 mL) was added 1N aqueous sodium hydroxide solution (2.8 mL), and the mixture was stirred at room temperature for 4.5 hrs. 1N Aqueous hydrochloric acid solution (2.8 mL) was added, and the mixture was stirred for 15 min. The reaction mixture was poured into water (50 mL), and the mixture was extracted with ethyl acetate (50 mL×3). The organic layer washed successively with 5% aqueous sodium hydrogen carbonate solution, water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to basic silica gel chromatography (eluent:hexane/ethyl acetate=95/5→0/100). The object fraction was concentrated under reduced pressure and dried. Ethanol/diisopropyl ether (5/95) was added to the residue, and the mixture was stirred with heating to 80° C., allowed to cool to room temperature, and stood still. The resultant precipitate was collected by filtration. The obtained precipitate washed with diisopropyl ether and dried under reduced pressure to give the title compound (214 mg) as white powder crystals.

reactant | 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]butyl acetate | 281 mg | C(C)(=O)OCCCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl | C25H22ClF3N4O3
reactant | sodium hydroxide | 1N, 2.8 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2.8 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
product | 4-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]butan-1-ol | 214 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCCCO | C23H20ClF3N4O2
